US05100458
d) 2-(4,6-Dimethoxypyrimidin-2-yloxy)-6-phenylthiobenzoic aicd
0.55 g (4.9 mmol) of potassium tert-butylate is added a little at a time to a solution of 0.6 g (2.4 mmol) of 6-phenylthiosalicylic acid in 8 ml of dimethyl sulfoxide, the temperature increasing to 35° C. The mixture is cooled to room temperature, after which 0.53 g (2.4 mmol) of 4,6-dimethoxy-2-methylsulfonylpyrimidine is added and stirring is carried out for one hour at room temperature. The content of the flask is poured onto a mixture of 100 ml of cold water, 1 ml of orthophosphoric acid and 50 ml of ether. The ether phase is washed with 5% strength phosphoric acid and water, dried and evaporated down. After the crude product has been stirred with cold toluene, 0.50 g (54%) of the above product of melting point 135°-136° C. is isolated.

reactant | potassium tert-butylate | 4.9 mmol, 0.55 g | CC(C)(C)[O-].[K+]
reactant | 6-phenylthiosalicylic acid | 2.4 mmol, 0.6 g | C1(=CC=CC=C1)C=1C=CC=C(C1C(=O)O)S | C13H10O2S
reactant | 4,6-dimethoxy-2-methylsulfonylpyrimidine | 2.4 mmol, 0.53 g | COC1=NC(=NC(=C1)OC)S(=O)(=O)C | C7H10N2O4S
reactant | orthophosphoric acid | 1 ml | P(O)(O)(O)=O | H3O4P
reactant | dimethyl sulfoxide | 8 ml | CS(=O)C | C2H6OS
solvent | ether | 50 ml | CCOCC | C4H10O
solvent | water | 100 ml | O | H2O
product | 2-(4,6-Dimethoxypyrimidin-2-yloxy)-6-phenylthiobenzoic aicd | COC1=NC(=NC(=C1)OC)OC1=C(C(=S)O)C(=CC=C1)C1=CC=CC=C1 | C19H16N2O4S
